US06759511B2
After 1-methyl-4-nitropyrrole-2-carboxylic acid methyl ester (1.17 g, 6.35 mmol) was dissolved in EA (20 ml), 10% Pd/C (50 mg, catalytic weight) was added thereto. The mixture was stirred for 1 hour at room temperature under hydrogen atmosphere to reduce a nitro group (NO2) into an amino group (NH2), whereby a pyrrole-type amino acid was obtained. 10% Pd/C was filtered out by celite 545 filter, and the filtrate was washed with EA and MeOH and concentrated under vacuum. To the residue were added carbonic acid 4-nitro-phenyl ester 2-(4-trifluoromethyl-phenylsulfanyl)-ethyl ester (2.23 g, 5.76 mmol) dissolved in anhydrous DCM (30 ml), DIEA (2.01 μm, 11.56 mmol), DMAP (1.41 g, 11.56 mmol), and HOBt (1.77 g, 11.56 mmol), and the mixture was stirred for 12 hours at room temperature. The reaction was stopped by adding water and the reaction mixture was extracted with DCM. The organic layer was dried over anhydrous MgSO4 and concentrated. The residue was purified by silica gel column chromatography (EA/n-hexane=1/3, v/v) to give methyl 1-methyl-4-[2-(4-trifluoromethyl-phenylsulfanyl)-ethoxycarbonylamino]-1H-pyrrole-2-carboxylate (1.98 g, 85.42%) of a pale yellow solid.

reactant | 1-methyl-4-nitropyrrole-2-carboxylic acid methyl ester | 6.35 mmol, 1.17 g | COC(=O)C=1N(C=C(C1)[N+](=O)[O-])C | C7H8N2O4
reactant | pyrrole | N1C=CC=C1 | C4H5N
reactant | carbonic acid 4-nitro-phenyl ester 2-(4-trifluoromethyl-phenylsulfanyl)-ethyl ester | 5.76 mmol, 2.23 g | FC(C1=CC=C(C=C1)SCCOC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)(F)F | C16H12F3NO5S
reactant | DIEA | 11.56 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 11.56 mmol, 1.77 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | EA | 20 ml | CC(OCC)=O | C4H8O2
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 11.56 mmol, 1.41 g | CN(C)C=1C=CN=CC1 | C7H10N2
catalyst | Pd/C | 50 mg | [Pd] | Pd
solvent | water | O | H2O
product | methyl 1-methyl-4-[2-(4-trifluoromethyl-phenylsulfanyl)-ethoxycarbonylamino]-1H-pyrrole-2-carboxylate | 1.98 g, 85.42% | CN1C(=CC(=C1)NC(=O)OCCSC1=CC=C(C=C1)C(F)(F)F)C(=O)OC | C17H17F3N2O4S
